US08133910B2
A mixture of 4-[5-(5-ethyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenol (367 mg, 1.22 mmol) and epichlorohydrine (565 mg, 6.10 mmol) in isopropanol (20 mL) and 3 N aq. NaOH (6 mL) is stirred at 40° C. for 15 h. The mixture is diluted with diethyl ether, washed with sat. aq. NaHCO3 and water, dried over MgSO4, filtered and evaporated. The crude product is purified by CC on silica gel eluting with heptane:EA 9:1 to give 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-5-(5-ethyl-thiophen-2-yl)-[1,2,4]oxadiazole (123 mg) as a pale yellow oil; LC-MS: tR=1.15 min, [M+1]+=357.11.

reactant | 4-[5-(5-ethyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenol | 1.22 mmol, 367 mg | C(C)C1=CC=C(S1)C1=NC(=NO1)C1=CC(=C(C(=C1)C)O)C | C16H16N2O2S
reactant | epichlorohydrine | 6.10 mmol, 565 mg | C(Cl)C1CO1 | C3H5ClO
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
solvent | NaOH | 3 N, 6 mL | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-5-(5-ethyl-thiophen-2-yl)-[1,2,4]oxadiazole | 123 mg | CC=1C=C(C=C(C1OCC1OC1)C)C1=NOC(=N1)C=1SC(=CC1)CC | C19H20N2O3S
